US07960409B2
(S)-(1Z)-1-[4-(4-fluorophenyl)-7-({4-[1-hydroxy-1-(trifluoromethyl)propyl]-1H-1,2,3-triazol-1-yl}methyl)quinolin-2-yl]ethanone oxime
A solution of (S)-1-[4-(4-fluorophenyl)-7-({4-[1-hydroxy-1-(trifluoromethyl)propyl]-1H-1,2,3-triazol-1-yl}methyl)quinolin-2-yl]ethanone (50 mg, 0.11 mmol) and hydroxylamine hydrochloride (11 mg, 0.16 mmol) in pyridine (1 mL) was stirred at rt overnight. The solution was concentrated and purification on silica gel (eluting with acetone/dichloromethane, 2:8) gave the title compound. MS (+ESI): 488 (M+H)+.

reactant | (S)-1-[4-(4-fluorophenyl)-7-({4-[1-hydroxy-1-(trifluoromethyl)propyl]-1H-1,2,3-triazol-1-yl}methyl)quinolin-2-yl]ethanone | 0.11 mmol, 50 mg | FC1=CC=C(C=C1)C1=CC(=NC2=CC(=CC=C12)CN1N=NC(=C1)[C@@](CC)(C(F)(F)F)O)C(C)=O | C24H20F4N4O2
reactant | hydroxylamine hydrochloride | 0.16 mmol, 11 mg | Cl.NO
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | (S)-(1Z)-1-[4-(4-fluorophenyl)-7-({4-[1-hydroxy-1-(trifluoromethyl)propyl]-1H-1,2,3-triazol-1-yl}methyl)quinolin-2-yl]ethanone oxime | FC1=CC=C(C=C1)C1=CC(=NC2=CC(=CC=C12)CN1N=NC(=C1)[C@@](CC)(C(F)(F)F)O)\C(\C)=N/O | C24H21F4N5O2
